US05576324
2-(D-Alanylmethyl)-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-(Carbobenzyloxy-β-alanyl]aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.61 g, 6.00 mmol) was dissolved in dimethylformamide (200 ml). To the obtained solution, 10% palladium-on-carbon (2.61 g) was added, followed by stirring at room temperature for 5 hours in the atmosphere of hydrogen. The reaction mixture was filtered, and the filtrate was condensed under reduced pressure. The resultant residue was dissolved in methanol (50 ml). To the obtained solution, 1.37 N-HCl--methanol (4.82 ml) was added at room temperature, followed by being submitted to a recrystallizing procedure using methanol ether to obtain 1.80 g of the title compound as pale yellow powdery crystals (88.8%).

reactant | 2-(Carbobenzyloxy-β-alanyl]aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 6.00 mmol, 2.61 g | C(=O)(OCC1=CC=CC=C1)NCCC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C24H25N3O5
reactant | hydrogen | [H][H] | H2
reactant | methanol ether | CO.CCOCC
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 2.61 g | [Pd] | Pd
product | 2-(D-Alanylmethyl)-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.80 g, 88.8% | N[C@H](C)C(=O)CC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C16H18N2O3
